US07759385B2
The diastereoisomer mixture of (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid 4-nitrophenyl ester (400 mg, 1 mmole) was added to a solution of 5-fluoro-3-piperidine-3-yl-1H-indole (220 mg, 1 mmole) in dioxane (8 ml). The reaction mixture was then boiled under reflux for 8 hours. The reaction mixture was worked up by distilling off the solvent. The residue contained, apart from nitrophenol, also the two diastereoisomers of 3-(5-fluoro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide. The diastereoisomers were separated and purified by flash chromatography on silica gel (30 g). Methanol/EE (1:1; 850 ml) was used as eluent. The non-polar diastereoisomer of 3-(5-fluoro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (143 mg, m.p. 110°-115° C., 30%) and the polar diastereoisomer of 3-(5-fluoro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (118 mg, m.p. 98°-101° C., 25%) were thereby obtained in pure form.

reactant | (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid 4-nitrophenyl ester | 1 mmole, 400 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C22H27N3O4
reactant | 5-fluoro-3-piperidine-3-yl-1H-indole | 1 mmole, 220 mg | FC=1C=C2C(=CNC2=CC1)C1CNCCC1 | C13H15FN2
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 3-(5-fluoro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide | 118 mg, 25% | CN(C1(CCC(CC1)CNC(=O)N1CC(CCC1)C1=CNC2=CC=C(C=C12)F)C1=CC=CC=C1)C | C29H37FN4O
